US04387106
A solution of 5.61 g. of 1,1-dibenzyl-3-(4-carboethoxyphenyl)urea in 100 ml of ethanol is treated with 25 ml of 1 N aqueous sodium hydroxide solution, stirred under reflux for 16 hours, allowed to cool, acidified with 1 N hydrochloric acid, and filtered. The solid is recrystallized from ethanol to yield 1,1-dibenzyl-3-(4-carboxyphenyl)urea as a white solid, mp 210°-214°.

reactant | 1,1-dibenzyl-3-(4-carboethoxyphenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=CC=C(C=C1)C(=O)OCC)CC1=CC=CC=C1 | C24H24N2O3
reactant | sodium hydroxide | 1 N, 25 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,1-dibenzyl-3-(4-carboxyphenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=CC=C(C=C1)C(=O)O)CC1=CC=CC=C1 | C22H20N2O3
